US05998433
c) Synthesis of N-(2-chloroethyl)-N-(3-furylmethyl)-6-phenylhexylamine
To a solution of 2.533 g (8.470 mmol) of 2-[(3-furylmethyl)-(6-phenylhexyl)amino]ethanol, 1.77 ml (12.7 mmol) of triethylamine and 30 mg of 4-dimethylaminopyridine in 50 ml of dichloromethane, 1.94 g (10.2 mmol) of p-toluenesulfonyl chloride was added at room temperature, followed by overnight stirring at room temperature. The solvent was distilled off under reduced pressure; the resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=15/1 to 9/1) to yield the desired product.

reactant | 2-[(3-furylmethyl)-(6-phenylhexyl)amino]ethanol | 8.470 mmol, 2.533 g | O1C=C(C=C1)CN(CCO)CCCCCCC1=CC=CC=C1 | C19H27NO2
reactant | triethylamine | 12.7 mmol, 1.77 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 10.2 mmol, 1.94 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | 4-dimethylaminopyridine | 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(2-chloroethyl)-N-(3-furylmethyl)-6-phenylhexylamine | ClCCN(CC1=COC=C1)CCCCCCC1=CC=CC=C1 | C19H26ClNO
